US07589087B2
[5-(4,6-Dimethyl-1H-benzoimidazol-2-yl)-pyridin-2-yl]-methyl-[3-(1-methyl-piperidin-4-yl)-propyl]-amine
6-{Methyl-[3-(1-methyl-piperidin-4-yl)-propyl]-amino}-nicotinonitrile. A solution of 6-chloro-nicotinonitrile (322 mg, 2.33 mmol) and methyl-[3-(1-methyl-piperidin-4-yl)-propyl]-amine (0.400 g, 2.56 mmol) in EtOH (10 mL) was heated at 100° C. in a sealed tube for 4 h. The mixture was cooled to rt and concentrated to give a crude product which was purified by FCC to give 260 mg (41%) of the title compound as a yellow oil. 1H NMR (CDCl3): 8.40 (d, J=2.3 Hz, 1H), 7.52 (dd, J=9.0, 2.3 Hz, 1H), 6.39 (d, J=9.0 Hz, 1H), 3.56 (t, J=7.6 Hz, 2H), 3.17 (s, 3H), 2.93-2.73 (m, 2H), 2.33 (s, 3H), 1.97-1.77 (m, 4H), 1.33-1.16 (m, 8H), 0.93-0.77 (m, 1H).

reactant | 6-{Methyl-[3-(1-methyl-piperidin-4-yl)-propyl]-amino}-nicotinonitrile | CN(C1=NC=C(C#N)C=C1)CCCC1CCN(CC1)C | C16H24N4
reactant | 6-chloro-nicotinonitrile | 2.33 mmol, 322 mg | ClC1=NC=C(C#N)C=C1 | C6H3ClN2
reactant | methyl-[3-(1-methyl-piperidin-4-yl)-propyl]-amine | 2.56 mmol, 0.400 g | CNCCCC1CCN(CC1)C | C10H22N2
solvent | EtOH | 10 mL | CCO | C2H6O
product | [5-(4,6-Dimethyl-1H-benzoimidazol-2-yl)-pyridin-2-yl]-methyl-[3-(1-methyl-piperidin-4-yl)-propyl]-amine | 260 mg, 41% | CC1=CC(=CC=2NC(=NC21)C=2C=CC(=NC2)N(CCCC2CCN(CC2)C)C)C | C24H33N5
